US04806539
N-(2-Nitrophenylsulphenyl)-bis-(2-hydroxyethyl)-amine (2)
A solution of 379 g (2 mol) of 2-nitrophenylsulphenyl chloride in 2 l of methylene chloride is added to a solution of 210 g (2 mol) of bis(2-hydroxyethyl)amine and 202 g (2 mol) of triethylamine in 3 l of methylene chloride in the course of 90 minutes, the temperature rising from 21° to 34°. The mixture is subsequently stirred at room temperature for 2 hours and is left to stand overnight and the solution is washed six times with 1 l of water each time, dried with sodium sulphate and concentrated in vacuo. The residue is an orange-yellow solid product of melting point 82°-86°, which is sufficiently pure for further reaction. Yield: 499 g.

reactant | 2-nitrophenylsulphenyl chloride | 2 mol, 379 g | [N+](=O)([O-])C1=C(C=CC=C1)SCl | C6H4ClNO2S
reactant | bis(2-hydroxyethyl)amine | 2 mol, 210 g | OCCNCCO | C4H11NO2
reactant | triethylamine | 2 mol, 202 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 2 l | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3 l | C(Cl)Cl | CH2Cl2
product | N-(2-Nitrophenylsulphenyl)-bis-(2-hydroxyethyl)-amine | [N+](=O)([O-])C1=C(C=CC=C1)SN(CCO)CCO | C10H14N2O4S
